US05939443
4-(2-amino-2-methypropyl)phenol acetic acid salt
A one-gallon high-pressure reactor was charged with 4(2-methyl-2-nitropropyl)phenol (120 g, 614 mmol), HOAC (35.2 mL, 614 mmol), 5% Palladium on carbon (24 g) wetted with 2B3 EtOH (60 mL), and MeOH (1230 mL). The mixture was heated to 50° C. with agitation (600 rpm), and the reactor was purged with N2 and pressurized to 50 psi with H2. After 15.5 h the reactor was purged with N2, and the cooled mixture was filtered. The filter cake was washed with MeOH and the filtrate was concentrated to 514 g of slurry on a rotary evaporator. To this slurry was added EtOAc (2 L) with vigorous agitation. After stirring for 1 h, the resulting crystals were filtered and washed with a small amount of EtOAc. The product was dried overnight in a 45° C. vacuum oven to yield 118.83 g (86%) of product as small white needles (mp 211-216° C. dec). This material was 99% pure by HPLC analysis, and while another 9.00 g of material was obtained from the mother liquor it was found to be only 88% pure.

reactant | 4(2-methyl-2-nitropropyl)phenol | 614 mmol, 120 g | CC(CC1=CC=C(C=C1)O)(C)[N+](=O)[O-] | C10H13NO3
reactant | EtOH | 60 mL | CCO | C2H6O
catalyst | Palladium on carbon | 24 g | [Pd] | Pd
solvent | MeOH | 1230 mL | CO | CH4O
product | 4-(2-amino-2-methypropyl)phenol acetic acid salt | 118.83 g, 86% | C(C)(=O)O.NC(CC1=CC=C(C=C1)O)(C)C | InChI=1S/C10H15NO.C2H4O2/c1-10(2,11)7-8-3-5-9(12)6-4-8;1-2(3)4/h3-6,12H,7,11H2,1-2H3;1H3,(H,3,4)
